US06166011
Isobutyl boronic acid (475 mg), potassium carbonate (644 mg) and tetrakis triphenylphosphine palladium (269 mg) were added sequentially to a solution of methyl (2S)-1-(6-bromo-1,3-benzoxazol-2-yl)-2-piperidinecarboxylate (790 mg) [see Preparation 40] in toluene:tetrahydrofuran, 60:40 by volume, (20 ml) under nitrogen. The reaction mixture was then heated to 80° C. for 20 hours, after which time the solvent was removed under reduced pressure and the residue partitioned between water and dichloromethane. The organic layer was separated and washed with water, dried over magnesium sulphate and the solvent removed under reduced pressure. The crude product was purified by column chromatography on silica gel eluting with a solvent system of 80:20, by volume, hexane:ethyl acetate to afford methyl (2S)-1-(6-isobutyl-1,3-benzoxazol-2-yl)-2-piperidinecarboxylate (100 mg) as an oil.

reactant | Isobutyl boronic acid | 475 mg | C(C(C)C)B(O)O | C4H11BO2
reactant | potassium carbonate | 644 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl (2S)-1-(6-bromo-1,3-benzoxazol-2-yl)-2-piperidinecarboxylate | 790 mg | BrC1=CC2=C(N=C(O2)N2[C@@H](CCCC2)C(=O)OC)C=C1 | C14H15BrN2O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl (2S)-1-(6-isobutyl-1,3-benzoxazol-2-yl)-2-piperidinecarboxylate | 100 mg | C(C(C)C)C1=CC2=C(N=C(O2)N2[C@@H](CCCC2)C(=O)OC)C=C1 | C18H24N2O3
